US04470826
Preparation of 2-methyl-4-amino-5-nitro-N-(β,α-dihydroxypropyl)-aniline.
0.2 mol (33.4 g) of 2-methyl-4-amino-5-nitroaniline and 0.1 mol (10 g) of calcium carbonate, suspended in 100 ml of water, are heated beforehand on a boiling water-bath, whilst stirring. 0.216 mol (24 g) of 1-chloropropane-2,3-diol is added. The reaction mixture is heated for 24 hours on the boiling water-bath, seven portions each containing 0.035 mol (3.5 g) of calcium carbonate and 0.066 mol (7.3 g) of 1-chloropropane-2,3-diol being added, one every three hours. The hot reaction mixture is filtered and the filtrate is diluted with 60 ml of water. After cooling for 24 hours at 0° C., the expected product, which has crystallised, is filtered off. The product is washed with water and recrystallised three times from ethanol. It melts at 150° C.

reactant | 2-methyl-4-amino-5-nitroaniline | 0.2 mol, 33.4 g | CC1=C(N)C=C(C(=C1)N)[N+](=O)[O-] | C7H9N3O2
reactant | calcium carbonate | 0.1 mol, 10 g | C([O-])([O-])=O.[Ca+2]
reactant | 1-chloropropane-2,3-diol | 0.216 mol, 24 g | ClCC(CO)O | C3H7ClO2
reactant | calcium carbonate | 0.035 mol, 3.5 g | C([O-])([O-])=O.[Ca+2]
reactant | 1-chloropropane-2,3-diol | 0.066 mol, 7.3 g | ClCC(CO)O | C3H7ClO2
solvent | water | 100 ml | O | H2O
product | 2-methyl-4-amino-5-nitro-N-(β,α-dihydroxypropyl)-aniline | CC1=C(NC(C(C)O)O)C=C(C(=C1)N)[N+](=O)[O-] | C10H15N3O4
